US07465815B2
N-(3-(4-Isopropylphenyl)-3,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
Using 3-(4-isopropylphenyl)-3,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 34, the title compound was synthesized in the same manner as in Example 1. Yield: 37%. Melting point: 194-195° C. (ethyl acetate-hexane).

reactant | 3-(4-isopropylphenyl)-3,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1(COC2=C1C(=C(C(=C2C)C)N)C)C | C21H27NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-(3-(4-Isopropylphenyl)-3,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | Yield: 37% | C(C)(C)C1=CC=C(C=C1)C1(COC2=C1C(=C(C(=C2C)C)NC(CC(C)(C)C)=O)C)C | C27H37NO2
